US07754742B2
1-(3-Bromo-2,4-dihydroxy-phenyl)-ethanone
Stir 1-(3-bromo-2-hydroxy-4-methoxy-phenyl)-ethanone (20 g, 82 mmol) in dichloromethane (500 mL) at −30° C. under a nitrogen atmosphere. Treat with boron tribromide (30 mL, 318 mmol) and stir over night at room temperature. Pour mixture into cracked ice and stir for 1 hr. Extract twice with dichloromethane, wash organic layers with water, saturated aqueous sodium chloride solution, dry with magnesium sulfate, filter, and evaporate filtrate. Chromatograph residue on silica gel eluting with 2:1 dichloromethane/hexane to provide the title compound (13.8 g, 74% yield) as an off white powder. 1H NMR (CDCl3) δ 13.5 (s, 1H), 7.65 (d, J=8.0 Hz, 1H), 6.62 (d, J=8.0 Hz, 1H), 6.20 (s, 1H), 2.60 (s, 3H).

reactant | 1-(3-bromo-2-hydroxy-4-methoxy-phenyl)-ethanone | 82 mmol, 20 g | BrC=1C(=C(C=CC1OC)C(C)=O)O | C9H9BrO3
reactant | boron tribromide | 318 mmol, 30 mL | B(Br)(Br)Br | BBr3
reactant | dichloromethane hexane | ClCCl.CCCCCC
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 1-(3-Bromo-2,4-dihydroxy-phenyl)-ethanone | 13.8 g, 74% yield | BrC=1C(=C(C=CC1O)C(C)=O)O | C8H7BrO3
